US07005440B1
2-(5-Ethyl-pyridin-2-yl)-ethanol
To a cooled solution (−10° C.) of diisopropylamine (2.31 mL, 16.5 mL) in THF (45 mL) is added dropwise (2.5M) n-butyllithium (6.6 mL, 16.5 mmol), let stir 10 min. then cooled to −78° C. To this mixture is added dropwise a solution of 5-ethyl-2-methylpyridine (1.98 mL, 15 mmol) in THF (3 mL) and let stir for 10 min at −78° C. To the reaction mixture is added paraformaldehyde (1.13 g, 37.5 mmol), the cold bath removed and stirring continued for 1 hr. Quenched reaction with H2O, diluted with EtOAc and the organic layer washed with brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (silica, 0.5% ammonia/5% methanol/dichloromethane) to give the title compound as a pale yellow oil. MS (EI) 151 (M)+.

reactant | diisopropylamine | 2.31 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 16.5 mmol, 2.5M, 6.6 mL | C(CCC)[Li]
reactant | 5-ethyl-2-methylpyridine | 15 mmol, 1.98 mL | C(C)C=1C=CC(=NC1)C | C8H11N
reactant | paraformaldehyde | 37.5 mmol, 1.13 g | C=O | CH2O
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-Ethyl-pyridin-2-yl)-ethanol | C(C)C=1C=CC(=NC1)CCO | C9H13NO
